US04021457
A mixture of 1,4-dihydroxyanthraquinone (10.0 g), lead tetraacetate (20 g) and acetic acid (25 ml) was ground together in mortar and pestle for 10 minutes at 25°. The reaction mixture was filtered and the solid washed with acetic acid, water, and ether. The red solid was taken up in a large volume of aceton (700 ml), the solution filtered through Celite, dried over sodium sulfate and evaporated under reduced pressure to give 1,4,9,10 anthradiquinone (8.2 g, 81% yield) as a brown solid. m.p. 213°-215° C. (benzene/pet. ether) lit m.p. 211°-213° NMR (CDCl3) δ8.2-7.8 (m, 4H aryl), 6.88 (s, 2H); IR 5.95, 610 (sh), 6.15 (sh), 6.3μ.

reactant | 1,4-dihydroxyanthraquinone | 10.0 g | OC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O | C14H8O4
reactant | lead tetraacetate | 20 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1,4,9,10 anthradiquinone | 8.2 g, 81% yield | C1(C=CC(C=2C(C3=CC=CC=C3C(C12)=O)=O)=O)=O | C14H6O4
